US07951801B2
6,6-Dimethyl-4-[2-(2,2,2-trifluoro-acetylamino)-propyl]-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide
4-(2-Amino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8yl)-amide (3 CF3COOH salt) (1.5 g) was suspended in dichloromethane (80 mL) along with 5 equivalents of triethylamine. Trifluoroacetic anhydride (56 μL, 2 equivalents) was added and the mixture stirred at room temperature for an hour. The solvent was removed by rotary evaporation. The product was purified by silica gel flash chromatography (5% methanol/dichloromethane, product Rf 0.3) to afford 1 g. 1H-NMR (300 MHz, relative to CDCl3 peak at 7.3 ppm) δ 10 (s, 1H), 9.7 (d, 1H), 8.7 (s, 1H), 8.6 (s, 1H), 8.2 (d, 1H), 7.6 (s, 2H), 6.6 (s, 1H), 4.3 (m, 1H), 3.9 (m, 1H), 3.8 (t, 1H), 3.2 (m, 1H), 2.7-2.9 (m, 2H), 2.5 (m, 1H), 2.2 (d, 1H), 1.4 (d, 3H), 1.3 (s, 3H), 1.2 (s, 3H). LCMS (ammonium acetate standard method) retention time=1.84 min. (M+=512; M−=510).

reactant | 4-(2-Amino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8yl)-amide | 1.5 g | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(C)N | C21H26ClN5O2
reactant | triethylamine | 5 equivalents | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 56 μL, 2 equivalents | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 6,6-Dimethyl-4-[2-(2,2,2-trifluoro-acetylamino)-propyl]-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(C)NC(C(F)(F)F)=O | C23H25ClF3N5O3
